data/oMe_Silver.jsonl
{"reaction_id": "NR-118_1-c1ccc(OC)cc1_2-CCCC_3-C#N_4-C(=O)C_5-C(F)(F)F_6-CC(C)C","name": "Johnson-Corey-Chaykovsky Reaction","level": "medium","reactants_smiles": ["C([H])(C#N)(C(=O)C)[S+](c1ccc(OC)cc1)(CCCC)","C(=O)(C(F)(F)F)(CC(C)C)"],"products_smiles": ["C1(C#N)(C(=O)C)OC1(C(F)(F)F)(CC(C)C)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C#N)(C(=O)C)[S+](c1ccc(OC)cc1)(CCCC)","rationale": "The base abstracts the acidic α-proton adjacent to the positively charged sulfur, as the resulting carbanion is stabilized by the adjacent sulfonium through inductive and resonance effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-]C(C(F)(F)F)(CC(C)C)C(C#N)(C(=O)C)[S+](c1ccc(OC)cc1)(CCCC)","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, driven by the strong polarization of the C=O bond and stabilization of the resulting alkoxide by solvation under basic conditions."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(C#N)(C(=O)C)OC1(C(F)(F)F)(CC(C)C)","rationale": "The alkoxide oxygen intramolecularly attacks the adjacent carbon bearing the sulfonium, as the sulfonium is an excellent leaving group, facilitating ring closure to the strained but thermodynamically favorable epoxide."}],"description": "Under basic conditions, the sulfonium ylide is generated by deprotonation, enabling nucleophilic attack on the carbonyl to form a betaine intermediate. Intramolecular cyclization via displacement of the sulfonium group yields the epoxide product with retention of substituent patterns."}
{"reaction_id": "NR-228_1-C(=O)OC_2-Cl_3-Br_4-C_5-C(c1ccccc1)C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(C(=O)OC)=C(Cl)(Br)","CC(=O)OC(c1ccccc1)C"],"products_smiles": ["C(C(=O)OC)1OC1(Cl)Br"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC)1OC1(Cl)Br","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
